US07459554B2
3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine:
8-Chloro-3-cyclobutyl-1-phenylimidazo[1,5-a]pyrazine: A mixture of cyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-phenylmethyl]-amide (710 mg, 2.35 mmol) and POCl3 (15 mL, 25 g, 163 mmol) was heated to 55° C., under N2 atmosphere, for 21 h. POCl3 was evaporated in vacuo, a cold solution of NH3 in i-PrOH (2M, 15 mL) was added until pH was basic, and rotary evaporation was used to remove excess solvent. The crude material was suspended between EtOAc and dH2O, the layers were separated, and the aqueous layer was extracted with EtOAc (4×50 mL). The combined organic layers were washed with NaHCO3 sat. aq. sol. (2×50 mL) and brine (1×50 mL), dried over anhydrous MgSO4, and filtered. Sample was purified by filtration through a silica gel plug with 10% EtOAc:CH2Cl2 (250 mL) and filtrate was concentrated in vacuo, affording 602.9 mg (90%, 2.125 mmol) of the title compound, containing ≈0.5 equivalents of reduced DIAD and ≦0.06 equivalents of cyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-phenylmethyl]-amide (4), as a gold-colored solid; 1H NMR (CDCl3, 400 MHz) δ 2.00-2.11 (m, 1H), 2.13-2.26 (m, 1H), 2.47-2.57 (m, 2H), 2.60-2.72 (m, 2H), 3.85 (quint, J=8.4 Hz, 1H), 7.30 (d, J=5.2 Hz, 1H), 7.38-7.47 (m, 3H), 7.50 (d, J=5.2 Hz, 1H), 7.67-7.71 (m, 2H). MS (ES+): m/z 284.1/286.1 (100/55) [MH+].

reactant | 8-Chloro-3-cyclobutyl-1-phenylimidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2C2=CC=CC=C2)C2CCC2 | C16H14ClN3
reactant | cyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-phenylmethyl]-amide | 2.35 mmol, 710 mg | ClC=1C(=NC=CN1)C(C1=CC=CC=C1)NC(=O)C1CCC1 | C16H16ClN3O
reactant | POCl3 | 163 mmol, 15 mL, 25 g | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine | 2.125 mmol, 602.9 mg, 90% | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=CC=C2 | C16H16N4
